US04101667
2-trifluoromethyl-9-cyano-10,11-dihydrodibenzo[b,f]thiepin:
The mixture of 450mg of 2-trifluoromethyl-9-chloro-10,11-dihydrodibenzo[b,f]thiepin, 0.4g of copper cyanide, 0.05g of anhydrous copper sulfate and 10ml of N-methylpyrrolidone was stirred at 180° to 210° C for 18.5 hrs. while preventing the moisture. A ter cooling, to the mixture was added 2.5ml of conc. ammonia water and 35ml of water and the resulting mixture was filtered with the use of celite. The thus obtained solution was extracted with benzene and the extract was washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain 0.3g of a brown oily substance, which was chromatographed on a silica gel, eluted with n-hexane, and there was obtained 64mg of the desired product. This was recrystallized from n-hexane to afford 2-trifluoromethyl-9-cyano-10,11-dihydrodibenzo-[b,f]thiepin having a melting point of 113° to 114.5° C as colorless crystals.

reactant | 2-trifluoromethyl-9-chloro-10,11-dihydrodibenzo[b,f]thiepin | 450mg | FC(C1=CC2=C(SC3=C(CC2)C(=CC=C3)Cl)C=C1)(F)F | C15H10ClF3S
reactant | copper cyanide | 0.4g | [Cu](C#N)C#N
reactant | N-methylpyrrolidone | 10ml | CN1C(CCC1)=O | C5H9NO
reactant | ammonia water | 2.5ml | O.N
catalyst | copper sulfate | 0.05g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 35ml | O | H2O
product | 2-trifluoromethyl-9-cyano-10,11-dihydrodibenzo[b,f]thiepin | 64mg | FC(C1=CC2=C(SC3=C(CC2)C(=CC=C3)C#N)C=C1)(F)F | C16H10F3NS
